US05948803
Methyl 5-(1-chloro-1-cyanomethyl)-2-methoxybenzoate
To a suspension of methyl 5-(1-cyano-1-hydroxymethyl)-2-methoxybenzoate (2.15 g) in chloroform (40 ml) were added thionyl chloride (2.0 ml) and DMF (2 drops), and the mixture was refluxed for 30 minutes under heat. After cooling, the reaction mixture was washed with water, aqueous solution of sodium hydrogencarbonate and saturated brine in sequence and dried over anhydrous sodium sulfate. This was concentrated under reduced pressure to obtain 2.37 g of aimed compound as an oily product.

reactant | methyl 5-(1-cyano-1-hydroxymethyl)-2-methoxybenzoate | 2.15 g | C(#N)C(O)C=1C=CC(=C(C(=O)OC)C1)OC | C11H11NO4
reactant | thionyl chloride | 2.0 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | Methyl 5-(1-chloro-1-cyanomethyl)-2-methoxybenzoate | 2.37 g | ClC(C#N)C=1C=CC(=C(C(=O)OC)C1)OC | C11H10ClNO3
